US08084484B2
f) 2-(2,3-Dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoic acid
To the flask of Ethyl 2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoate (175 mg, 0.747 mmol) was added 90% aq. EtOH (5 mL) at room temperature, and additionally added NaOH (70 mg). The reaction mixture was stirred for 10 hrs at 40° C. then cooled to room temperature. The mixture was diluted with H2O (25 mL) and acidified with AcOH (4 mL, pH=4) then extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using CH2Cl2:MeOH (10:1) as eluant.

reactant | Ethyl 2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoate | 0.747 mmol, 175 mg | O=C1NC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C12H14N2O3
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | NaOH | 70 mg | [OH-].[Na+]
reactant | AcOH | 4 mL, pH=4 | CC(=O)O | C2H4O2
solvent | H2O | 25 mL | O | H2O
product | 2-(2,3-Dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoic acid | O=C1NC2=C(N1)C=CC(=C2)C(C(=O)O)C | C10H10N2O3
